US07176216B2
4-(Hydroxymethyl)-2,6-dimethoxyphenylboric acid
To a solution of 3,5-dimethoxybenzyl alcohol (2.71 g) in tetrahydrofuran (50 mL) was added n-butyllithium (1.56M hexane solution; 36.2 mL)while cooling with ice with ice bath, and the internal temperature was raised to room temperature and stirred for 1 hour. The internal temperature was then cooled to −78° C., to the mixture was added triethoxyborane (9.6 mL), and the temperature was raised to room temperature while stirring. After completion of the reaction, saturated aqueous ammonium chloride was added to the reaction mixture while cooling with ice and the reaction mixture was extracted with ethyl acetate, and then after washing the organic extract with brine, it was dried over anhydrous magnesium sulfate and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (50 g) and the title compound (1.72 g) was obtained as a white amorphous solid from the ethyl acetate fraction.

reactant | 3,5-dimethoxybenzyl alcohol | 2.71 g | COC=1C=C(CO)C=C(C1)OC | C9H12O3
reactant | n-butyllithium | 1.56M, 36.2 mL | C(CCC)[Li]
reactant | triethoxyborane | 9.6 mL | C(C)OB(OCC)OCC | C6H15BO3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 4-(Hydroxymethyl)-2,6-dimethoxyphenylboric acid | 1.72 g | OCC1=CC(=C(C(=C1)OC)OB(O)O)OC | C9H13BO6
